US04374279
There are loaded into a 100 ml glass flask, 30 grams of methyl cumyl ether (0.2 moles), 0.1 ml of boron trifluoride diethyl etherate and 9 grams of technical cumene hydroperoxide (0.05 moles) having the same composition as that used in Example 1. The mixture is heated to 60° C. with stirring and maintained at a pressure of 200 mmHg. After 30 minutes the conversion of the cumene hydroperoxide is 100% with a yield of 99.8% of dicumyl peroxide.

reactant | methyl cumyl ether | 0.2 moles, 30 grams | C(C)(C)(C1=CC=CC=C1)OC | C10H14O
reactant | boron trifluoride diethyl etherate | 0.1 ml | B(F)(F)F.CCOCC
reactant | cumene hydroperoxide | 0.05 moles, 9 grams | [O-]O.C1(=CC=CC=C1)C(C)C
product | dicumyl peroxide | yield of 99.8% | C(C)(C)(C1=CC=CC=C1)OOC(C)(C)C1=CC=CC=C1 | C18H22O2
